US07595327B2
According to the procedure of Example 56, Step 4, methyl (1S,2R)-1-ethyl-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate (147 mg, 0.296 mmol), 5M sodium hydroxide solution (0.30 mL), triethylamine hydrochloride (936.7 mg, 7 mmol) were heated in a microwave (100° C., 110 min) to provide crude (1S,2R)-1-ethyl -2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid. To this crude residue were added BOP (677 mg, 1.53 mmol), hydroxylamine hydrochloride (634 mg, 9.06 mmol), and triethylamine (2 mL) to provide (1S,2R)-N-hydroxy-1-ethyl-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide (79.2 mg, 0.159 mmol, 54%) as a colorless solid after purification via HPLC, eluting with a gradient of 15-100% MeCN/H20 (10 min). LCMS (M−H): 2.53 min, 496.2; 1H NMR (400 MHz, ACETONITRILE-D3) δ ppm 0.79-0.85 (m, 3H) 1.13-1.24 (m, 1H) 1.36-1.47 (m, 4H) 1.61-1.73 (m, 1H) 2.12-2.20 (m, 1H) 2.48-2.51 (m, 3H) 2.64-2.66 (m, 3H) 3.89-3.96 (m, 1H) 5.59 (d, J=1.01 Hz, 2H) 7.17-7.22 (m, 2H) 7.50 (s, 1H) 7.55 (ddd, J=8.34, 6.95, 1.14 Hz, 1H) 7.69-7.75 (m, 3H) 7.95-8.03 (m, 2H) 9.21 (s, 1H).

reactant | methyl (1S,2R)-1-ethyl-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 0.296 mmol, 147 mg | C(C)[C@]1([C@@H](CCC1)N(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C)C(=O)OC | C27H32N2O5S
reactant | sodium hydroxide | 5M, 0.30 mL | [OH-].[Na+]
reactant | triethylamine hydrochloride | 7 mmol, 936.7 mg | Cl.C(C)N(CC)CC
product | (1S,2R)-1-ethyl -2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | C(C)[C@]1([C@@H](CCC1)N(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C)C(=O)O | C26H30N2O5S
